US07101892B2
2-(4-Benzenesulphonylbutoxy)tetrahydropyran
A mixture of thiophenol (5.02 ml, 49 mmol), 4-chloro-1-butanol (7.33 ml, 73.5 mmol) and potassium carbonate (20.32 g, 147 mmol) in acetonitrile (5 ml) was stirred at 60° C. for 18 hours. The cooled mixture was diluted with water and extracted with ethyl acetate. The combined organic layers were concentrated in vacuo. The residue was dissolved in methanol (10 ml) and water (2 ml) and treated with Oxone™ (45.2 g, 73.5 mmol). The reaction was stirred at room temperature for 24 hours, then filtered and concentrated in vacuo. The residue was partitioned between ethyl acetate and water. The organic layer was concentrated to give an oil which was dissolved in dichloromethane (10 ml), treated with pyridinium p-toluenesulfonate (3.69 g, 14.7 mmol) and 3,4-dihydro-2H-pyran (13.35 ml, 147 mmol) and stirred at room temperature for 18 hours. The mixture was diluted with water and the layers separated. The organic layer was washed with saturated aqueous sodium hydrogen carbonate solution and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel, eluting with 25% ethyl acetate/i-hexane, to yield the title compound as a clear oil (3.5 g, 24%).

reactant | thiophenol | 49 mmol, 5.02 ml | C1(=CC=CC=C1)S | C6H6S
reactant | 4-chloro-1-butanol | 73.5 mmol, 7.33 ml | ClCCCCO | C4H9ClO
reactant | potassium carbonate | 147 mmol, 20.32 g | C([O-])([O-])=O.[K+].[K+]
reactant | pyridinium p-toluenesulfonate | 14.7 mmol, 3.69 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | 3,4-dihydro-2H-pyran | 147 mmol, 13.35 ml | O1CCCC=C1 | C5H8O
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | water | O | H2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-(4-Benzenesulphonylbutoxy)tetrahydropyran | 3.5 g, 24% | C1(=CC=CC=C1)S(=O)(=O)CCCCOC1OCCCC1 | C15H22O4S
